US05536830
To a mixture of ethanol (120 ml) and water (25 ml), p-nitrobenzyl 7-amino-3-methyl-3-cephem-4-carboxylate (10 gm) was added. Iron powder (10 gm) was charged at 30° C., followed by the addition of concentrated HCl (12.5 ml) in a methanol (10 ml) and water (2.5 ml) mixture over a period of 15 minutes. The reaction mixture was stirred for 1 hour. After completion of the reaction, aq. KHCO3 was added to bring the pH to 8.0, followed by the addition of activated carbon. After stirring 10 minutes, the mixture was filtered. To the filtrate was added aq. HCl to bring the pH to 4.0. The product thus separated was filtered and dried to yield 4.3 gm (70.3%) of 7-amino-3-methyl-3-cephem-4-carboxylic acid as a white solid product. M.p. 217°-219° C.(d). IR(KBr) cm-1 3150, 1800, 1650, 1625, 1525, 1420, 1350, 790. NMR (D2O-DCl) δ :2.1 (s, 3 H,--CH3), 5.41(d, 1 H, S--CH), 5.86(m, 1 H, N--CH).

reactant | ethanol | 120 ml | C(C)O | C2H6O
reactant | p-nitrobenzyl 7-amino-3-methyl-3-cephem-4-carboxylate | 10 gm | NC1[C@@H]2N(C(=C(CS2)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C15H15N3O5S
reactant | HCl | 12.5 ml | Cl | ClH
catalyst | Iron | 10 gm | [Fe] | Fe
solvent | water | 2.5 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
product | 7-amino-3-methyl-3-cephem-4-carboxylic acid | 4.3 gm, 70.3% | NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H10N2O3S
